US05444083
(2) 3,5-Difluoro-2-hydroxy-N,N,N-trimethylbenzylammonium iodide
74 g (0.40 mol) of 3,5-difluoro-2-hydroxy-N,N-dimethylbenzylamine was dissolved in 300 ml of chloroform, and 200 ml of methyl iodide was added thereto. The mixture was heated under reflux for 3 hr to deposit a yellow precipitate. The precipitate was recovered by filtration to prepare 114 g (yield: 87%) of the intended product.

reactant | 3,5-difluoro-2-hydroxy-N,N-dimethylbenzylamine | 0.40 mol, 74 g | FC=1C(=C(CN(C)C)C=C(C1)F)O | C9H11F2NO
reactant | methyl iodide | 200 ml | CI | CH3I
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 3,5-Difluoro-2-hydroxy-N,N,N-trimethylbenzylammonium iodide | 114 g, yield: 87% | [I-].FC=1C(=C(C[N+](C)(C)C)C=C(C1)F)O | InChI=1S/C10H13F2NO.HI/c1-13(2,3)6-7-4-8(11)5-9(12)10(7)14;/h4-5H,6H2,1-3H3;1H
